US04221796
B. 6-(Methylsulfonyl)imidazo[1,2-a]pyridine-2-carbamic acid, methyl ester
A suspension of 2-amino-5-(methylsulfonyl)pyridine (58.7 mmol) and methyl(chloroacetyl)carbamate (70 mmol) in 88 ml of HMPT is treated in a manner similar to that described above with respect to Example 1D to yield the product.

reactant | 2-amino-5-(methylsulfonyl)pyridine | 58.7 mmol | NC1=NC=C(C=C1)S(=O)(=O)C | C6H8N2O2S
reactant | methyl(chloroacetyl)carbamate | 70 mmol | COC(NC(CCl)=O)=O | C4H6ClNO3
solvent | HMPT | 88 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 6-(Methylsulfonyl)imidazo[1,2-a]pyridine-2-carbamic acid, methyl ester | CS(=O)(=O)C=1C=CC=2N(C1)C=C(N2)NC(=O)OC | C10H11N3O4S
